US03987047
3-Trifluoroacetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline was prepared by acylation of 1,2,4,5-tetrahydro-11-methyl-azepino[4,5-b]quinoline with trifluoroacetic acid anhydride in benzene.

reactant | 1,2,4,5-tetrahydro-11-methyl-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | trifluoroacetic acid anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Trifluoroacetyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | Yield: 66% | FC(C(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C)(F)F | C16H15F3N2O
